US05051422
N-[3-[[2-[(Phenylmethyl)amino]ethyl]amino]phenyl]acetamide hydrochloride
Combine N-(3-aminophenyl)acetamide (31 g, 0.206 mol) and N-(2-chloroethyl)benzenemethanamine hydrochloride (17.0 g, 0.083 mol) and heat to 180° C. for 1 h. After this time, allow to cool to approximately 85° C. and add isopropanol (100 mL) to precipitate a solid. Decant the solvent and dissolve the white residue in refluxing methanol (800 mL). Filter hot and allow the solution to cool to room temperature. After 2 h, filter the resulting white solid and wash with methanol (50 mL) to give the title compound.

reactant | N-(3-aminophenyl)acetamide | 0.206 mol, 31 g | NC=1C=C(C=CC1)NC(C)=O | C8H10N2O
reactant | N-(2-chloroethyl)benzenemethanamine hydrochloride | 0.083 mol, 17.0 g | Cl.ClCCNCC1=CC=CC=C1
solvent | isopropanol | 100 mL | C(C)(C)O | C3H8O
product | N-[3-[[2-[(Phenylmethyl)amino]ethyl]amino]phenyl]acetamide hydrochloride | Cl.C1(=CC=CC=C1)CNCCNC=1C=C(C=CC1)NC(C)=O | InChI=1S/C17H21N3O.ClH/c1-14(21)20-17-9-5-8-16(12-17)19-11-10-18-13-15-6-3-2-4-7-15;/h2-9,12,18-19H,10-11,13H2,1H3,(H,20,21);1H
